US06693097B2
To a solution of 2-n-butoxy-4-chloro-6-(morpholin-4-yl)pyrimidine (1.38 g, 5.1 mmol) in dioxane (50 ml), anhydrous hydrazine (1.6 mL, 50 mmol) was added. The obtained reaction mixture was heated to 95° C., and stirred for 12 h under N2. After cooling to room temperature, the reaction mixture was quenched with ice-brine and extracted with EtOAc (200 mL). The organic extract was washed with brine, water, and dried over Na2SO4. The solvent was removed under reduced pressure. The crude residue was recrystallized from methanol to obtain 2-n-butoxy-4-hydrazino-6-(morpholin-4-yl)pyrimidine as white crystals (1.10 g, 81%).

reactant | 2-n-butoxy-4-chloro-6-(morpholin-4-yl)pyrimidine | 5.1 mmol, 1.38 g | C(CCC)OC1=NC(=CC(=N1)Cl)N1CCOCC1 | C12H18ClN3O2
reactant | hydrazine | 50 mmol, 1.6 mL | NN | H4N2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-n-butoxy-4-hydrazino-6-(morpholin-4-yl)pyrimidine | 1.10 g, 81% | C(CCC)OC1=NC(=CC(=N1)NN)N1CCOCC1 | C12H21N5O2
